US07989483B2
In a 50 ml three-necked flask, 5 g (44.6 mmol, 1 eq) of 2-ethylthiophene are dissolved in 28 ml of acetic anhydride, 0.5 ml of ortho-phosphoric acid are added and the reaction mixture is then heated for 1 hour at 80° C. The acids are evaporated off under reduced pressure, and the oil obtained is then filtered over a silica patch (eluent: 20% ethyl acetate, 80% heptane) after evaporation of the solvents: 5.2 g of 1-(5-ethylthiophen-2-yl)ethanone are obtained in the form of a brown oil. Yield: 76%.

reactant | 2-ethylthiophene | 44.6 mmol, 5 g, 1 eq | C(C)C=1SC=CC1 | C6H8S
reactant | ortho-phosphoric acid | 0.5 ml | P(O)(O)(O)=O | H3O4P
reactant | acetic anhydride | 28 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(5-ethylthiophen-2-yl)ethanone | 5.2 g, Yield: 76% | C(C)C1=CC=C(S1)C(C)=O | C8H10OS
